US08293735B2
To tetrahydro-furan-3-ol (1.0 g, 11.4 mmol) in anhydrous dichloromethane (15 mL) with triethylamine (2.37 mL, 17.03 mmol), was added methane sulfonyl chloride (12.5 mmol) at 0° C. The reaction mixture was stirred at RT for 3.5 hours, diluted with dichloromethane (50 mL) and washed with water. The organic phase was dried (MgSO4) and evaporated in-vacuo to give methanesulfonic acid tetrahydro-furan-3-yl ester as light orange oil (1.68 g, 89%). A mixture of piperazine-1-carboxylic acid tert-butyl ester (1.0 g, 5.38 mmol), methanesulfonic acid tetrahydrofuran-3-yl ester (1.07 g, 6.45 mmol) and K2CO3 (2.96 g, 21.5 mmol) was stirred in anhydrous acetonitrile (50 mL) under reflux conditions for 12 hours. The reaction mixture was cooled and poured onto water and extracted with dichloromethane to give after silica chromatography, 4-(tetrahydro-furan-3-yl)-piperazine-1-carboxylic acid tert-butyl ester, as a colourless oil (0.57 g, 41%).

reactant | piperazine-1-carboxylic acid tert-butyl ester | 5.38 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | methanesulfonic acid tetrahydrofuran-3-yl ester | 6.45 mmol, 1.07 g | O1CC(CC1)OS(=O)(=O)C | C5H10O4S
reactant | K2CO3 | 21.5 mmol, 2.96 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 4-(tetrahydro-furan-3-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1COCC1 | C13H24N2O3
